US05045557
A mixture of 4-(2,4-dichlorophenyl)-1H-imidazole (12.14 g), triethylamine (13 ml) and dimethylsulphamoyl chloride (7.5 ml) in tetrahydrofuran (50 ml) was stirred for 18 hours at room temperature and then heated under reflux until almost no starting material remained. The organic phase was diluted with ethyl acetate (300 ml), washed with dilute hydrochloric acid, water and aqueous sodium bicarbonate, dried and the solvent evaporated to give an oily solid which was treated to flash column chromatography and the product recrystallised to give 4-(2,4-dichlorophenyl)-1-(dimethylsulphamoyl)imidazole, m.p. 169°-171°.

reactant | 4-(2,4-dichlorophenyl)-1H-imidazole | 12.14 g | ClC1=C(C=CC(=C1)Cl)C=1N=CNC1 | C9H6Cl2N2
reactant | triethylamine | 13 ml | C(C)N(CC)CC | C6H15N
reactant | dimethylsulphamoyl chloride | 7.5 ml | CN(S(=O)(=O)Cl)C | C2H6ClNO2S
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
solvent | ethyl acetate | 300 ml | C(C)(=O)OCC | C4H8O2
product | 4-(2,4-dichlorophenyl)-1-(dimethylsulphamoyl)imidazole | ClC1=C(C=CC(=C1)Cl)C=1N=CN(C1)S(N(C)C)(=O)=O | C11H11Cl2N3O2S
